US07989449B2
(RS)-4-(3-Bromo-phenyl)-4-(4-difluoromethoxy-2-fluoro-phenyl)-4,5-dihydro-oxazol-2-ylamine (Building Block AB)
According to general method 2, a solution of iodine in ethyl acetate was added to a mixture of 4-[1-(3-bromo-phenyl)-vinyl]-1-difluoromethoxy-3-fluoro-benzene (4.9 g, 14 mmol) mid silver cyanate in ethyl acetate/acetonitrile. The crude product of this reaction was subsequently reacted with aqueous ammonia (30% by vol). Purification by SCX yield 2.0 g of product (35%).

reactant | iodine | II | I2
reactant | 4-[1-(3-bromo-phenyl)-vinyl]-1-difluoromethoxy-3-fluoro-benzene | 14 mmol, 4.9 g | BrC=1C=C(C=CC1)C(=C)C1=C(C=C(C=C1)OC(F)F)F | C15H10BrF3O
reactant | ammonia | N | H3N
reactant | ethyl acetate acetonitrile | C(C)(=O)OCC.C(C)#N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)-4-(3-Bromo-phenyl)-4-(4-difluoromethoxy-2-fluoro-phenyl)-4,5-dihydro-oxazol-2-ylamine | BrC=1C=C(C=CC1)C1(N=C(OC1)N)C1=C(C=C(C=C1)OC(F)F)F | C16H12BrF3N2O2
